US09422331B2
To a solution of (S)-2-(tert-butoxycarbonylamino)propanoic acid (0.7 g, 3.7 mmol) and ethyl iodide (2.6 ml, 32.2 mmol) in THF (10 ml) was added sodium hydride (60% w/w dispersion in mineral oil, 576 mg, 14.4 mmol). The reaction was sealed and stirred at 60° C. overnight, then partitioned between EtOAc and H2O. The aqueous layer was acidified to pH 4 with citric acid solution and extracted with EtOAc. The organic layer was dried over MgSO4, filtered and concentrated to provide (S)-2-(tert-butoxycarbonyl(ethyl)amino)propanoic acid (700 mg, 87%) as an oil.

reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 3.7 mmol, 0.7 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | ethyl iodide | 32.2 mmol, 2.6 ml | C(C)I | C2H5I
reactant | sodium hydride | 14.4 mmol, 576 mg | [H-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (S)-2-(tert-butoxycarbonyl(ethyl)amino)propanoic acid | 700 mg, 87% | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C)CC | C10H19NO4
